US08686024B2
(2) Synthesis of 1-(3-pyridylmethyl)-3,3-dimethylindolin-5-yl n-hexylcarbamate
The title compound was synthesized from 1-(3-pyridylmethyl)-3,3-dimethylindolin-5-ol (20.0 mg, 0.09 mmol) using the same procedure employed for Example 2 (2), but with n-hexylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (10.7 mg, 36%) having the following characteristics.

reactant | 1-(3-pyridylmethyl)-3,3-dimethylindolin-5-ol | 0.09 mmol, 20.0 mg | N1=CC(=CC=C1)CN1CC(C2=CC(=CC=C12)O)(C)C | C16H18N2O
reactant | n-hexylisocyanate | C(CCCCC)N=C=O | C7H13NO
product | 1-(3-pyridylmethyl)-3,3-dimethylindolin-5-yl n-hexylcarbamate | C(CCCCC)NC(OC=1C=C2C(CN(C2=CC1)CC=1C=NC=CC1)(C)C)=O | C23H31N3O2
